### ISSUE TITLE
Fix `div` vs. `/`

### ISSUE THREAD

**Issue by yangky11** [yangky11/lean-smt#8]
```smt
(declare-const x Real)
(assert (= x (div 1 2)))
(check-sat)
(get-model)
```

**Comment by JC-Chen1** [comment]
I have checked the `div` vs `/` issue. 

I find that in Lean, when dividing is operated between two `Nat` numbers, it would perform in a `For Nat and Int, a / b rounds toward 0.` way.

For example,
```
#eval (1 : ℕ) / (2 : ℕ)  -- 0
```

That is sync with `div` in SMT. Therefore, those theorems including dividing between two `Nat` numbers should be translated to `div`.

For example,
```
theorem mathd_algebra_251 (x : ℕ) (h₀ : x ≠ 0) (h₁ : 3 + 1 / x = 7 / x) : x = 2 := by
  smt!
```
which be translated into,
```
(define-sort Nat () Int)
(declare-const x Nat)
(assert (>= x 0))
(assert (= (+ 3 (div 1 x)) (div 7 x)))
(assert (distinct x 0))
(assert (not (= x 2)))
(check-sat)
```

And for those operating between `Real` numbers, `/` should be translated into `/` in SMT.
```
theorem mathd_algebra_181 (n : ℝ) (h₀ : n ≠ 3) (h₁ : (n + 5) / (n - 3) = 2) : n = 11 := by
  smt!
```
which will be translated into,
```
(declare-const n Real)
(assert (= (/ (+ n 5) (+ n (- 3))) 2))
(assert (distinct n 3))
(assert (not (= n 11)))
(check-sat)
```
Two cases showing above are both translated correctly from Lean to SMT, there seems no problem with the translating process.

**Comment by JC-Chen1** [comment]
But the previous translating of `Rat.OfScientic`  wrongly used `div` to represent `Real.div`, which I have corrected now.

**Comment by JC-Chen1** [comment]
The example we encountered before is,
```
theorem imo_2006_p6 (a b c : ℝ) :
    a * b * (a ^ 2 - b ^ 2) + b * c * (b ^ 2 - c ^ 2) + c * a * (c ^ 2 - a ^ 2) ≤
      9 * 2 ^ (1/2) / 32 * (a ^ 2 + b ^ 2 + c ^ 2) ^ 2 := by smt!
```
which will be translated into,
```
(declare-const c Real)
(declare-const b Real)
(declare-const a Real)
(assert (not (<= (+ (+ (* (* a b) (+ (^ a 2) (- (^ b 2)))) (* (* b c) (+ (^ b 2) (- (^ c 2))))) (* (* c a) (+ (^ c 2) (- (^ a 2))))) (* (/ (* 9 (^ 2 (div 1 2))) 32) (^ (+ (+ (^ a 2) (^ b 2)) (^ c 2)) 2)))))
(check-sat)
```
Translating process used `div` but not `/`. The reason why this happened is that in Lean number following `^` is required to be `Nat` or `Int`, so translating process will take (1 / 2) as operation between `Nat`.

To verify this, when we write,
```
x ^ 0.5
```
Lean server wil return error message saying `failed to synthesize instance OfScientific ℕ`.

**Comment by yangky11** [comment]
OK, so lean-smt's original translation to `div` and `/` is correct?

**Comment by yangky11** [comment]
I think for problems like `mathd_algebra_251`, it was intended to perform the division in real numbers, without rounding. That's a bug in the Lean formalization, and we can fix them by adding `: R` to cast to reals explicitly?

**Comment by JC-Chen1** [comment]
> lean-smt's original translation to div and / is correct?

Yes, I think it's correct.

> I think for problems like mathd_algebra_251, it was intended to perform the division in real numbers, without rounding. That's a bug in the Lean formalization, and we can fix them by adding : R to cast to reals explicitly?

Sorry for confusing. Actually `mathd_algebra_251` is originally as follows,
```
theorem mathd_algebra_251 (x : ℝ) (h₀ : x ≠ 0) (h₁ : 3 + 1 / x = 7 / x) : x = 2 := by
  smt!
```
I changed `(x : ℝ)` to `(x : ℕ)` for explanation purpose.
